US06600045B2
(2R, 4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Ethyl Ester
A clean, dry and nitrogen gas purged 100 L glass tank was charged with (2R, 4S)-2-ethyl-4-methoxycarbonylamino-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (5175 g, 13.82 mol), CH2Cl2 (20 L), and potassium t-butoxide (1551 g, 13.82 mol) at room temperature. The mixture was stirred for five minutes. 3,5-Bis(trifluromethyl)benzylbromide (3.50 L, 19.1 mol) was added to the mixture in one portion. The internal temperature was maintained between 20-25° C. for 1.5 hours. After 2.3 hours of reaction time, an additional charge of potassium t-butoxide (46.10 g, 0.41 mol) was added. After a total reaction time of 4.5 hours, the reaction was quenched. 1,4-Diazabicyclo[2.2.2]octane (DABCO) (918 g, 8.18 mol) was added to the reaction solution and the mixture was stirred for 1 hour. IPE (40 L) and 0.5 M hydrochloric acid (30 L) were added to the reaction mixture. The resulting organic and aqueous phases were separated and the organic layer was extracted with 0.5M hydrochloric acid (2×30 L). The resulting organic and aqueous phases were then separated and the organic layer was extracted with saturated aqueous sodium chloride (15 L) and the resulting organic and aqueous phases were separated. Anhydrous magnesium sulfate (3.5 kg) was added to the organic layer and the mixture was stirred for 30 minutes. The mixture was then filtered (0.5 micron filter) into a 50 L glass tank with IPE wash (8 L) in two portions. The filtrate was concentrated under vacuum to a total volume of 12 L with internal temperature of 35° C. resulting in an oil. 2B Ethanol (25 L) was added to the oil and the solution was concentrated under vacuum to a volume of 12 L. To the solution was added 2B ethanol (15 L) and the solution was again concentrated under vacuum to a volume of 12 L. The solution was cooled to room temperature and seeded with (2R, 4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (3 g). The solution was granulated for about 38 hours, filtered, and rinsed with 2B ethanol (4 L+2L). The solids were dried under vacuum (no heat) to afford 4610 g (55%) of the title compound. The mother liquor from the above filtration was concentrated under vacuum (solution temp=62° C.) to a final volume of 6 L and cooled to 38° C. The solution was seeded with (2R, 4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (0.5 g) and allowed to cool and granulate while stirring for 19 hours. The mixture was filtered and the solids rinsed with 2B EtOH (2.5 L). The resulting cake was dried under vacuum (no heat) to provide 1422 g (17%) of the title compound as the second crop. Combined recovery was 6032 g (73%).

reactant | (2R, 4S)-2-ethyl-4-methoxycarbonylamino-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 13.82 mol, 5175 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=CC(=CC=C12)C(F)(F)F)NC(=O)OC)CC | C17H21F3N2O4
reactant | potassium t-butoxide | 13.82 mol, 1551 g | CC(C)([O-])C.[K+]
reactant | 3,5-Bis(trifluromethyl)benzylbromide | 19.1 mol, 3.50 L | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | 1,4-Diazabicyclo[2.2.2]octane | 8.18 mol, 918 g | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrochloric acid | 0.5 M, 30 L | Cl | ClH
catalyst | potassium t-butoxide | 0.41 mol, 46.10 g | CC(C)([O-])C.[K+]
solvent | Ethanol | 25 L | C(C)O | C2H6O
solvent | CH2Cl2 | 20 L | C(Cl)Cl | CH2Cl2
product | (2R, 4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Ethyl Ester | 4610 g, 55% | C(C)OC(=O)N1[C@@H](C[C@@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C26H25F9N2O4
